US05484804
A suspension of 2-methoxyphenylmagnesium bromide (prepared starting from 75.3 g of 2-bromoanisole and 9.8 g of magnesium) in 100 cm3 of dry tetrahydrofuran is added dropwise while stirring to a suspension of 20 g of (3aS,7aS)-7,7-diphenyl-2-tert-butoxycarbonylperhydroisoindol-4-one and 31.6 g of anhydrous cerium chloride in 250 cm3 of dry tetrahydrofuran at room temperature. The reaction mixture is stirred at room temperature for 24 hours, treatea with 400 cm3 of an aqueous saturated solution of ammonium chloride, diluted with 200 cm3 of ethyl acetate, washed with 300 cm3 of water (twice) and then with 300 cm3 of an aqueous saturated solution of sodium chloride, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a Merck silica gel column (particle size 0.04-0.06 mm, diameter 5.8 cm, height 26.5 cm) by eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (80/20 by volume) and collecting fractions of 100 cm3. Fractions 9 to 29 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 17.82 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2- methoxyphenyl)-2-tert-butoxycarbonylperhydroisoindol-4-ol are obtained in the form of a white foam.

reactant | 2-methoxyphenylmagnesium bromide | 75.3 g | COC1=C(C=CC=C1)[Mg]Br
reactant | (3aS,7aS)-7,7-diphenyl-2-tert-butoxycarbonylperhydroisoindol-4-one | 20 g | C1(=CC=CC=C1)C1(CCC([C@@H]2CN(C[C@H]12)C(=O)OC(C)(C)C)=O)C1=CC=CC=C1 | C25H29NO3
reactant | cerium chloride | 31.6 g | [Cl-].[Ce+3].[Cl-].[Cl-]
solvent | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 cm3 | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | 200 cm3 | C(C)(=O)OCC | C4H8O2
product | (3aS,4S,7aS)-7,7-diphenyl-4-(2- methoxyphenyl)-2-tert-butoxycarbonylperhydroisoindol-4-ol | 17.82 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C(=O)OC(C)(C)C)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C32H37NO4
